### PR TITLE
[Merged by Bors] - feat(CategoryTheory): Add exact sequences for Sheaf Cohomology

### PR DESCRIPTION
**Pull request by Brian-Nugent**
In this PR, I add the long exact sequence for sheaf cohomology as well as prove that it is functorial. Since sheaf cohomology is defined in terms of `Ext`, this is done using the covariant sequence for `Ext`.

---

- [x] depends on: #34742

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 1]
```diff
@@ -0,0 +1,226 @@
...
+variable [HasSheafify J AddCommGrpCat.{w}] [HasExt.{w'} (Sheaf J AddCommGrpCat.{w})] (n : ℕ)
+
+variable {S : ShortComplex (Sheaf J AddCommGrpCat.{w})} (hS : S.ShortExact) (n₀ : ℕ)
+    (n₁ : ℕ) (h : n₀ + 1 = n₁)
+
+namespace H
+
+/-- Given a short exact sequence of sheaves `S`, this is the connecting homomorphism
+`Hⁿ(S.X₃) ⟶ Hⁿ⁺¹(S.X₁)`. -/
+noncomputable def connectingHom : H S.X₃ n₀ →+ H S.X₁ n₁ :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Why not a shorter name?
```suggestion
noncomputable def δ : H S.X₃ n₀ →+ H S.X₁ n₁ :=
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 2]
```diff
@@ -0,0 +1,226 @@
...
+open Abelian AddCommGrpCat
+
+variable {C : Type u} [Category.{v} C] {J : GrothendieckTopology C}
+
+namespace Sheaf
+
+variable [HasSheafify J AddCommGrpCat.{w}] [HasExt.{w'} (Sheaf J AddCommGrpCat.{w})] (n : ℕ)
+
+variable {S : ShortComplex (Sheaf J AddCommGrpCat.{w})} (hS : S.ShortExact) (n₀ : ℕ)
+    (n₁ : ℕ) (h : n₀ + 1 = n₁)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Untested, but it would be nice to make this an autoparam:
```suggestion
    (n₁ : ℕ) (h : n₀ + 1 = n₁ := by lia)
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 3]
```diff
@@ -0,0 +1,226 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+attribute [local simp] H.map_comp_apply in
+/-- The long exact sequence of cohomology is functorial -/
+@[simps]
+noncomputable def longSequenceFunctor :
+    ObjectProperty.FullSubcategory (ShortComplex.ShortExact (C := (Sheaf J AddCommGrpCat.{w}))) ⥤
+      ComposableArrows AddCommGrpCat.{w'} 5 where
+      obj S := longSequence S.property n₀ n₁ h
+      map {S₁ S₂} f := longSequence_hom n₀ n₁ h S₁.property S₂.property f.hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]:
```suggestion
  obj S := longSequence S.property n₀ n₁ h
  map {S₁ S₂} f := longSequence_hom n₀ n₁ h S₁.property S₂.property f.hom
```

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Sorry, I know you've mentioned this exact indentation issue to me before. I look out for it more going forward.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 2 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Trying that changed gave a "declaration uses `sorry`" error for me on every def/theorem.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 4]
```diff
@@ -0,0 +1,225 @@
...
+
+/-- This is the long exact sequence:
+`Hⁿ(S.X₁) ⟶ Hⁿ(S.X₂) ⟶ Hⁿ(S.X₃) ⟶ Hⁿ⁺¹(S.X₁) ⟶ Hⁿ⁺¹(S.X₂) ⟶ Hⁿ⁺¹(S.X₃)`. -/
+noncomputable def longSequence (h : n₀ + 1 = n₁ := by lia) :
+    ComposableArrows AddCommGrpCat.{w'} 5 := ComposableArrows.mk₅
+  (ofHom (map S.f n₀))
+  (ofHom (map S.g n₀))
+  (ofHom (δ hS n₀ n₁ h))
+  (ofHom (map S.f n₁))
+  (ofHom (map S.g n₁))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: I would suggest making this an abbrev, as it makes the simp lemmas below unnecessary:
```suggestion
noncomputable abbrev longSequence (h : n₀ + 1 = n₁ := by lia) :
    ComposableArrows AddCommGrpCat.{w'} 5 := ComposableArrows.mk₅
  (ofHom (map S.f n₀)) (ofHom (map S.g n₀)) (ofHom (δ hS n₀ n₁ h))
  (ofHom (map S.f n₁)) (ofHom (map S.g n₁))
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 5]
```diff
@@ -0,0 +1,225 @@
...
+@[simp]
+lemma longSequence_map₄₅ (i : (4 : Fin 6) ⟶ 5) :
+    (longSequence hS n₀ n₁ h).map i = ofHom (map S.g n₁) := rfl
+
+theorem longSequence_exact : (longSequence hS n₀ n₁ h).Exact :=
+  Ext.covariantSequence_exact _ hS n₀ n₁ h
+
+/-- The induced homomorphism of long exact equences obtained by applying `H.map` everywhere. -/
+noncomputable def longSequence_hom :
+    longSequence h₁ n₀ n₁ h ⟶ longSequence h₂ n₀ n₁ h := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Similarly, this can be an abbrev:
```suggestion
noncomputable abbrev longSequenceHom :
    longSequence h₁ n₀ n₁ h ⟶ longSequence h₂ n₀ n₁ h := by
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 6]
```diff
@@ -0,0 +1,225 @@
...
+@[simp]
+lemma longSequence_hom_app₅ :
+    (longSequence_hom n₀ n₁ h h₁ h₂ f).app 5 = ofHom (map f.τ₃ n₁) := rfl
+
+set_option backward.isDefEq.respectTransparency false in
+attribute [local simp] H.map_comp_apply in
+/-- The long exact sequence of cohomology is functorial -/
+@[simps]
+noncomputable def longSequenceFunctor :
+    ObjectProperty.FullSubcategory (ShortComplex.ShortExact (C := (Sheaf J AddCommGrpCat.{w}))) ⥤
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean:114]: I would doubt that this definition is really necessary in the applications. I would think that `longSequenceHom` defined above would be more than enough!

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 7]
```diff
@@ -0,0 +1,225 @@
...
+      ComposableArrows AddCommGrpCat.{w'} 5 where
+  obj S := longSequence S.property n₀ n₁ h
+  map {S₁ S₂} f := longSequence_hom n₀ n₁ h S₁.property S₂.property f.hom
+
+lemma longSequence_exact₁' :
+    (ShortComplex.mk (ofHom (δ hS n₀ n₁ h)) (ofHom (map S.f n₁)) (by
+      convert ((longSequence_exact hS n₀ n₁ h).sc 2).zero)).Exact := by
+  convert (longSequence_exact hS n₀ n₁ h).exact 2
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: `convert` is now necessary:
```suggestion
lemma longSequence_exact₁' :
    (ShortComplex.mk (ofHom (δ hS n₀ n₁ h)) (ofHom (map S.f n₁))
      ((longSequence_exact hS n₀ n₁ h).zero 2)).Exact :=
  (longSequence_exact hS n₀ n₁ h).exact 2
```
It should be the same for the other lemmas.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 8]
```diff
@@ -0,0 +1,225 @@
...
+  have := longSequence_exact₃' hS n₀ n₁ h
+  rw [ShortComplex.ab_exact_iff] at this
+  exact this x₃ hx₃
+
+lemma longSequence_exact₁ (x₁ : H S.X₁ n₁)
+    (hx₁ : map S.f n₁ x₁ = 0) :
+    ∃ x₃ : H S.X₃ n₀, δ hS n₀ n₁ h x₃ = x₁ := by
+  have := longSequence_exact₁' hS n₀ n₁ h
+  rw [ShortComplex.ab_exact_iff] at this
+  exact this x₁ hx₁
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]:
```suggestion
    ∃ x₃ : H S.X₃ n₀, δ hS n₀ n₁ h x₃ = x₁ :=
  Ext.covariant_sequence_exact₁ _ _ _ hx₁ h
```
Could you put the arguments of `longSequence_exact₁` in the same order as in `Ext.covariant_sequence_exact₁` and with the same explicit/implicit-ness?
(Same for the other lemmas.)

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: You may have to add this explicitly to each def/lemma, as the last parameter.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 6 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean:114]: I think it is useful when considering colimits/limits of sheaves. For example, if one wants to show that cohomology commutes with filtered colimits on a noetherian space. Given a functor `F : J ⥤ ShortExactSequences`, one can construct the long exact sequence on the colimits by composing with `longSequenceFunctor` then taking the colimit.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 8 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: I agree they should be aligned. But it seems like `n₀` should be explicit to me. In practice I've found I'm often using this with `apply` or `refine` to make the goal `map S.f n₁ x₁ = 0`. `n₁` can be infered from `x₁` so that can stay implicit. What would you think about making `n₀` explicit and changing `(hn₀ : n₀ + 1 = n₁)` to `(hn₀ : n₀ + 1 = n₁ := by lia)` for both this and `Ext.covariant_sequence_exact₁`?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 9]
```diff
@@ -0,0 +1,225 @@
...
+
+lemma longSequence_exact₃' :
+    (ShortComplex.mk (ofHom (map S.g n₀)) (ofHom (δ hS n₀ n₁ h)) (by
+      convert ((longSequence_exact hS n₀ n₁ h).sc 1).zero)).Exact := by
+  convert (longSequence_exact hS n₀ n₁ h).exact 1
+
+lemma longSequence_exact₂' (n : ℕ) :
+    (ShortComplex.mk (ofHom (map S.f n)) (ofHom (map S.g n)) (by
+      convert ((longSequence_exact hS n _ rfl).sc 0).zero)).Exact := by
+  convert (longSequence_exact hS n _ rfl).exact 0
```
Comment (Brian-Nugent) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Ok, this one really baffles me. If I change `((longSequence_exact hS n _ rfl).sc 0).zero` into `(longSequence_exact hS n _ rfl).zero 0` (like the other ones) it automatically includes `n₀` and `n₁` as varaibles and I get errors. Even `omit n₀ and n₁ in` doesn't work.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 4 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: I tried this but `simp` failed in a weird way. If I change this to an abbrev and run `#simp (longSequence hS n₀ n₁ h).obj 0` it gives me what I should get. It also works with 1 but for 2 and above it fails to simplify. Does this have something to do with the breakages described in the documentation for `CoposableArrows`?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 5 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Same issue here with simp only working for 0 and 1, although this time it at least doesn't cause any errors when I make it an abbrev but I do get errors if I get rid of the manual simp lemmas.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 2 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Ok, I've added them where I think it makes sense. I don't think `δ` should have it as an autoparam since its a function (so it usually won't be the last argument).

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: The issues are "fixed" if we do `dsimp [Precomp.map]` instead of `dsimp`, so that I do not think we should add dozens of custom dsimp lemmas each time we define a `ComposableArrows`. It is better to make it `longSequence` an abbrev.

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: It would be really nice to have `longSequence` just work with `dsimp` out of the box. I think that would make it much more user friendly (it also helps with automation). I can think of a few ways to make this happen:

- ~~Make ComposableArrows.Precomp.obj and ComposableArrows.Precomp.map abbrevs. I don't know if this has other impacts, I'm currently testing this on my machine.~~
- Add more simp lemmas like `ComposableArrows.Precomp.obj_zero`, `ComposableArrows.Precomp.obj_one`, `ComposableArrows.Precomp.map_zero_one`, etc. It appears these simp lemmas are why it is working with 0 and 1 but not higher. I could manually add more simp lemmas like these up to 5 (or maybe higher, whatever we think is the highest that will come up in practice). This would solve the custom dsimp lemmas problem as it would only need to be done once.
- Maybe a tag that autogenerates the simp lemmas?

There's probably a more clever solution that I'm not thinking of as well, I'd love to hear suggestions.

Edit: Making Precomp.obj and map abbrevs did not work.

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: The `ComposableArrows` API was working out of the box with `dsimp` before the addition of `simprocs` broke it. If making more `dsimp` lemmas in the general API fixes things, you may certainly do so!

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 5 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Ok, this one I was able to fix by adding 3 new simp lemmas to `Mathlib\CategoryTheory\ComposableArrows\Basic.lean`. If they look reasonable to you, I can add the 2,3 and 4 versions of them as well.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 10]
```diff
@@ -0,0 +1,187 @@
...
+
+/-- Given a short exact sequence of sheaves `S`, this is the connecting homomorphism
+`Hⁿ(S.X₃) ⟶ Hⁿ⁺¹(S.X₁)`. -/
+noncomputable def δ : H S.X₃ n₀ →+ H S.X₁ n₁ :=
+  hS.extClass.postcomp _ h
+
+variable {S₁ S₂ : ShortComplex (Sheaf J AddCommGrpCat.{w})}
+    (h₁ : S₁.ShortExact) (h₂ : S₂.ShortExact) (f : S₁ ⟶ S₂)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 11]
```diff
@@ -0,0 +1,187 @@
...
+    longSequence h₁ n₀ n₁ h ⟶ longSequence h₂ n₀ n₁ h := by
+  refine ComposableArrows.homMk₅ (ofHom (map f.τ₁ n₀)) (ofHom (map f.τ₂ n₀)) (ofHom (map f.τ₃ n₀))
+    (ofHom (map f.τ₁ n₁)) (ofHom (map f.τ₂ n₁)) (ofHom (map f.τ₃ n₁)) ?_ ?_ ?_ ?_ ?_
+  any_goals
+    dsimp
+    ext
+    simp [← H.map_comp_apply, f.4, f.5, ← δ_naturality n₀ n₁ h h₁ h₂ f]
+
+set_option backward.isDefEq.respectTransparency false in
+attribute [local simp] H.map_comp_apply in
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean:103]:
```suggestion
```

if you add 
```lean
@[simp]
lemma longSequenceHom_id (h : n₀ + 1 = n₁ := by lia) :
    longSequenceHom n₀ n₁ h₁ h₁ (𝟙 _) h = 𝟙 _ := by
  ext1 <;> cat_disch

attribute [local simp] H.map_comp_apply in
@[simp]
lemma longSequenceHom_comp {S₃ : ShortComplex (Sheaf J AddCommGrpCat)} (h₃ : S₃.ShortExact)
    (g : S₂ ⟶ S₃) (h : n₀ + 1 = n₁ := by lia) :
      longSequenceHom n₀ n₁ h₁ h₂ f h ≫ longSequenceHom n₀ n₁ h₂ h₃ g h =
        longSequenceHom n₀ n₁ h₁ h₃ (f ≫ g) h := by
  ext1 <;> cat_disch
```
above

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 4 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Its not the most elegant solution, but I think I got it working! 🫡

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 8 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: What's the status of this conversation?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 9 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Does this still apply or can this comment be resolved?

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: It does. When I make the change and then put `omit n₀ in` before the lemma I get an error that says "cannot omit referenced section variable `n₀`" even though `n₀` definitely does not appear anywhere.

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: It doesn't really affect this PR much as it works fine as is but there is certainly something concerning going on. I'm not really sure how to minimize it though.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 8 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: I'm happy to change them all to match whatever form we decide upon. I just want to make sure we pick one so I don't have to change them all multiple times.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 9 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Oh I see, this is very mysterious. Have you asked about this on Zulip?

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: I would if a could minimize it down to something that I could post in a Zulip message but I haven’t been able to

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Ok, I minimized it and I'll post it on zulip later. Posting it here as well so I don't lose it

```
import Mathlib

universe w' w v u

namespace CategoryTheory.Sheaf.H

open Abelian AddCommGrpCat

variable {C : Type u} [Category.{v} C] {J : GrothendieckTopology C}
  [HasSheafify J AddCommGrpCat.{w}] [HasExt.{w'} (Sheaf J AddCommGrpCat.{w})]
  {S : ShortComplex (Sheaf J AddCommGrpCat.{w})} (hS : S.ShortExact) (n₀ n₁ : ℕ)
  (h : n₀ + 1 = n₁)

/-- Given a short exact sequence of sheaves `S`, this is the connecting homomorphism
`Hⁿ(S.X₃) ⟶ Hⁿ⁺¹(S.X₁)`. -/
noncomputable def δ : H S.X₃ n₀ →+ H S.X₁ n₁ :=
  hS.extClass.postcomp _ h

/-- This is the long exact sequence:
`Hⁿ(S.X₁) ⟶ Hⁿ(S.X₂) ⟶ Hⁿ(S.X₃) ⟶ Hⁿ⁺¹(S.X₁) ⟶ Hⁿ⁺¹(S.X₂) ⟶ Hⁿ⁺¹(S.X₃)`. -/
noncomputable abbrev longSequence (h : n₀ + 1 = n₁) :
    ComposableArrows AddCommGrpCat.{w'} 5 := ComposableArrows.mk₅
  (ofHom (map S.f n₀)) (ofHom (map S.g n₀)) (ofHom (δ hS n₀ n₁ h))
  (ofHom (map S.f n₁)) (ofHom (map S.g n₁))

open ComposableArrows

theorem longSequence_exact : (longSequence hS n₀ n₁ h).Exact :=
  Ext.covariantSequence_exact _ hS n₀ n₁ h

example (n : ℕ) : 
    ((longSequence_exact hS n _ rfl).sc 0).zero = (longSequence_exact hS n _ rfl).zero 0 := 
  by with_reducible rfl

-- Works
omit n₀ in
lemma longSequence_exact₂' (n : ℕ) :
    (ShortComplex.mk (ofHom (map S.f n)) (ofHom (map S.g n))
      (((longSequence_exact hS n _ rfl).sc 0).zero)).Exact :=
  (longSequence_exact hS n _ rfl).exact 0

/-- error: cannot omit referenced section variable `n₀` -/
#guard_msgs in
omit n₀ in
lemma longSequence_exact₂'' (n : ℕ) :
    (ShortComplex.mk (ofHom (map S.f n)) (ofHom (map S.g n))
      ((longSequence_exact hS n _ rfl).zero 0)).Exact :=
  (longSequence_exact hS n _ rfl).exact 0

end CategoryTheory.Sheaf.H
```

Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: The two things that get swapped are reducibly defeq!

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: I think you got an answer on Zulip? You just need to fill in some fields which have `:= by omega` autoparams manually?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Yes, we can make them explicit and add an autoparam `by lia`!

**Comment by joelriou** [comment]
Could you merge with `master`? There have been some disrupting changed in Lean core which makes it so that you may need to add certain lines `set_option backward.defeqAttrib.useBackward true in` when you see `dsimp` fail.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 8 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Alas `by lia` didn't work on `longSequence_exact₃` since `h` is needed for `δ`. So I ended up just matching the current convention from `Ext` after all.

**Review by dagurtomas — APPROVED** [review]
LGTM, I would want Joël to take a final look

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 12]
```diff
@@ -0,0 +1,164 @@
...
+set_option backward.isDefEq.respectTransparency false in
+/-- The induced homomorphism of long exact equences obtained by applying `H.map` everywhere. -/
+noncomputable abbrev longSequenceHom (h : n₀ + 1 = n₁ := by lia) :
+    longSequence h₁ n₀ n₁ h ⟶ longSequence h₂ n₀ n₁ h := by
+  refine ComposableArrows.homMk₅ (ofHom (map f.τ₁ n₀)) (ofHom (map f.τ₂ n₀)) (ofHom (map f.τ₃ n₀))
+    (ofHom (map f.τ₁ n₁)) (ofHom (map f.τ₂ n₁)) (ofHom (map f.τ₃ n₁)) ?_ ?_ ?_ ?_ ?_
+  any_goals
+    dsimp
+    ext
+    simp [← H.map_comp_apply, f.4, f.5, ← δ_naturality n₀ n₁ h h₁ h₂ f]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Could you avoid `f.4`, `f.5` and use the actual names of these fields?

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 13]
```diff
@@ -0,0 +1,164 @@
...
+  (ofHom (map S.f n₀)) (ofHom (map S.g n₀)) (ofHom (δ hS n₀ n₁ h))
+  (ofHom (map S.f n₁)) (ofHom (map S.g n₁))
+
+open ComposableArrows
+
+theorem longSequence_exact : (longSequence hS n₀ n₁ h).Exact :=
+  Ext.covariantSequence_exact _ hS n₀ n₁ h
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency false in
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: It compiles without the `set_option`. It is super-slow with/without the `set_option`...
```suggestion
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 14]
```diff
@@ -0,0 +1,164 @@
...
+noncomputable abbrev longSequenceHom (h : n₀ + 1 = n₁ := by lia) :
+    longSequence h₁ n₀ n₁ h ⟶ longSequence h₂ n₀ n₁ h := by
+  refine ComposableArrows.homMk₅ (ofHom (map f.τ₁ n₀)) (ofHom (map f.τ₂ n₀)) (ofHom (map f.τ₃ n₀))
+    (ofHom (map f.τ₁ n₁)) (ofHom (map f.τ₂ n₁)) (ofHom (map f.τ₃ n₁)) ?_ ?_ ?_ ?_ ?_
+  any_goals
+    dsimp
+    ext
+    simp [← H.map_comp_apply, f.comm₁₂, f.comm₂₃, ← δ_naturality n₀ n₁ h h₁ h₂ f]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]:
```suggestion
```

**Comment by joelriou** [comment]
Some `set_option` are no longer necessary following #42936.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 14 above)
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Could you introduce an abbrev:
```lean
abbrev ShortComplex.shortExact (C : Type*) [Category* C] [Limits.HasZeroMorphisms C] :
    ObjectProperty (ShortComplex C) :=
  ShortComplex.ShortExact
```

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: And maybe, `CategoryTheory.ShortExactSequence` for the corresponding full subcategory?

**Comment by joelriou** [comment]
Otherwise, LGTM.

**Comment by joelriou** [comment]
There is still a comment at https://github.com/leanprover-community/mathlib4/pull/36218/changes#diff-5e73a166d8f252878c3277c42713401ba2c643bbf0c033df95522189f59abc80R111

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean (hunk 6 above)
Comment (Brian-Nugent) [reply Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean]: Yes, I'll put them in `Mathlib.Algebra.Homology.ShortComplex.ShortExact`.

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 15]
```diff
@@ -0,0 +1,160 @@
...
+    ext
+    simp [← H.map_comp_apply, f.comm₁₂, f.comm₂₃, ← δ_naturality n₀ n₁ h h₁ h₂ f]
+
+@[simp]
+lemma longSequenceHom_id (h : n₀ + 1 = n₁ := by lia) :
+    longSequenceHom n₀ n₁ h₁ h₁ (𝟙 _) h = 𝟙 _ := by
+  ext1 <;> cat_disch
+
+set_option backward.isDefEq.respectTransparency false in
+set_option backward.defeqAttrib.useBackward true in
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean:99]:
```suggestion
```

File: Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean [hunk 16]
```diff
@@ -0,0 +1,160 @@
...
+attribute [local simp] H.map_comp_apply in
+@[simp]
+lemma longSequenceHom_comp {S₃ : ShortComplex (Sheaf J AddCommGrpCat)} (h₃ : S₃.ShortExact)
+    (g : S₂ ⟶ S₃) (h : n₀ + 1 = n₁ := by lia) :
+      longSequenceHom n₀ n₁ h₁ h₂ f h ≫ longSequenceHom n₀ n₁ h₂ h₃ g h =
+        longSequenceHom n₀ n₁ h₁ h₃ (f ≫ g) h := by
+  ext1 <;> cat_disch
+
+/-- The long exact sequence of cohomology is functorial -/
+@[simps]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/SheafCohomology/ExactSequences.lean:109]: Basically, all functors have to be declared `implicit_reducible`:
```suggestion
@[implicit_reducible, simps]
```

**Comment by joelriou** [comment]
Thanks!

bors merge
